US06660759B1
To a solution of ethyl 3-{[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-yl]methyl}phenoxyacetate (353 mg) in MeOH:1,4-dioxane (1:1, 10 mL) was added 1N NaOH solution (0.744 mL) at 5° C., and the mixture was stirred at room temperature for 4 hours. The reaction mixture was evaporated and Et2O was added thereto. The resulting solid was collected by filtration to give sodium 3-[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-ylmethyl]phenoxyacetate (327.7 mg).

reactant | ethyl 3-{[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-yl]methyl}phenoxyacetate | 353 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@@H](C1)O)CC=1C=C(OCC(=O)OCC)C=CC1 | C30H30N2O5
reactant | NaOH | 1N, 0.744 mL | [OH-].[Na+]
solvent | MeOH 1,4-dioxane | 10 mL | CO.O1CCOCC1
product | sodium 3-[(2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidin-1-ylmethyl]phenoxyacetate | 327.7 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@@H](C1)O)CC=1C=C(OCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C28H26N2O5.Na/c31-22-15-24(30(17-22)16-19-8-7-13-23(14-19)34-18-25(32)33)28-29-26(20-9-3-1-4-10-20)27(35-28)21-11-5-2-6-12-21;/h1-14,22,24,31H,15-18H2,(H,32,33);/q;+1/p-1/t22-,24-;/m1./s1
